US07989633B2
Cyclobutyl 2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-5-(trifluoroacetyl)-1,4-dihydro-pyridine-3-carboxylate
100 mg (0.53 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde are dissolved with 143.3 mg (0.93 mmol) of 1,1,1-trifluoroacetylacetone, 82.4 mg (0.53 mmol) of cyclobutyl 3-aminocrotonate and 31.9 mg (0.53 mmol) of acetic acid in 5 ml of 2-propanol and heated to reflux under argon for 10 h. The solvent is removed in vacuo, and the residue is purified by column chromatography (mobile phase: dichloromethane/methanol 95:5). 8 mg (3.2% of theory) of the title compound are obtained as a yellow solid.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 0.53 mmol, 100 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | 1,1,1-trifluoroacetylacetone | 0.93 mmol, 143.3 mg | CC(=O)CC(=O)C(F)(F)F | C5H5F3O2
reactant | cyclobutyl 3-aminocrotonate | 0.53 mmol, 82.4 mg | N\C(=C/C(=O)OC1CCC1)\C | C8H13NO2
reactant | acetic acid | 0.53 mmol, 31.9 mg | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | Cyclobutyl 2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-5-(trifluoroacetyl)-1,4-dihydro-pyridine-3-carboxylate | CC=1NC(=C(C(C1C(=O)OC1CCC1)C=1C=CC=C2C(C=C(OC12)C)=O)C(C(F)(F)F)=O)C | C24H22F3NO5
